US04479963
The starting material is prepared as follows: A solution of 14.0 g of 2-isopropylglutaric acid in 80 ml of acetyl chloride is stirred at 50° for 2 hours and then evaporated to give 2-isopropylglutaric anhydride with NMR peaks at 0.98, 1.89, 2.43 and 2.85 ppm.

reactant | 2-isopropylglutaric acid | 14.0 g | C(C)(C)C(C(=O)O)CCC(=O)O | C8H14O4
solvent | acetyl chloride | 80 ml | C(C)(=O)Cl | C2H3ClO
product | 2-isopropylglutaric anhydride | C(C)(C)C1C(=O)OC(CC1)=O | C8H12O3
